US08703758B2
C) 2-(trans-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)-6-(cyclopropylmethoxy)-1,3-benzoxazole
A solution of trans-4-{[tert-butyl(diphenyl)silyl]oxy}-N-(2,4-dihydroxyphenyl)cyclohexanecarboxamide (0.88 g), a solution (1.9 M, 1.31 mL) of diisopropyl azodicarboxylate in toluene and triphenylphosphine (0.71 g) in THF (10 mL) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate). To the obtained residue were added (bromomethyl)cyclopropane (0.35 mL), potassium carbonate (498 mg) and DMF (5 mL), and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (714 mg).

reactant | trans-4-{[tert-butyl(diphenyl)silyl]oxy}-N-(2,4-dihydroxyphenyl)cyclohexanecarboxamide | 0.88 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C(=O)NC1=C(C=C(C=C1)O)O | C29H35NO4Si
reactant | diisopropyl azodicarboxylate | 1.9 M, 1.31 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(trans-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)-6-(cyclopropylmethoxy)-1,3-benzoxazole | 714 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C33H39NO3Si
